US08134001B2
Preparation of racemic(2′R, 3R, 4′S)-2′-{5-bromo-2-[2-(4,4-difluoro-piperidin-1-yl)-1,1-dimethyl-2-oxo-ethoxy]-phenyl}-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic(2′R, 3R, 4′S)-2′-[5-bromo-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (40 mg, 0.065 mmol), EDCI (18.7 mg, 0.098 mmol), HOBt (15 mg, 0.098 mmol) and DIPEA (75 mg, 0.6 mmol) in THF (2 mL) was added 4,4-difluoropiperidine hydrochloride (30 mg, 0.195 mmol). The mixture was stirred at room temperature overnight, purified by prep-HPLC to give the title compound as a white solid (19mg).

reactant | 2′-[5-bromo-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.065 mmol, 40 mg | BrC=1C=CC(=C(C1)C1NC(CC(C12C(NC1=CC(=CC=C12)Cl)=O)C1=CC(=CC=C1)Cl)=O)OC(C)(C)C(=O)O | C28H23BrCl2N2O5
reactant | EDCI | 0.098 mmol, 18.7 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.098 mmol, 15 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.6 mmol, 75 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4,4-difluoropiperidine hydrochloride | 0.195 mmol, 30 mg | Cl.FC1(CCNCC1)F
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2′-{5-bromo-2-[2-(4,4-difluoro-piperidin-1-yl)-1,1-dimethyl-2-oxo-ethoxy]-phenyl}-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 19mg | BrC=1C=CC(=C(C1)C1NC(CC(C12C(NC1=CC(=CC=C12)Cl)=O)C1=CC(=CC=C1)Cl)=O)OC(C(=O)N1CCC(CC1)(F)F)(C)C | C33H30BrCl2F2N3O4
